US08497371B2
2-(4-{[(4-fluorophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (23)
Pipemidic acid (35 mg, 0.1154 mmol) and 4-fluorophenyl isothiocyanate (17.7 mg, 0.1154 mmol) were used. Purification on silica yielded compound 23 in Table 1, below (30 mg, 57%). 1H NMR (300 MHz, CDCl3) δ 9.34 (s, 1H), 8.69 (s, 1H), 7.33 (s, 1H), 7.25-7.16 (m, 2H), 7.13-7.03 (m, 2H), 4.34 (q, J=7.00 Hz, 2H), 4.28-3.96 (m, 8H), 1.50 (t, J=7.36 Hz, 3H) ppm.

reactant | Pipemidic acid | 0.1154 mmol, 35 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | 4-fluorophenyl isothiocyanate | 0.1154 mmol, 17.7 mg | FC1=CC=C(C=C1)N=C=S | C7H4FNS
product | 2-(4-{[(4-fluorophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | FC1=CC=C(C=C1)NC(=S)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC | C21H21FN6O3S
